US07262185B2
To 1-cyclopropylmethyl-2-hydroxymethylimidazole (2.50 g) was added thionyl chloride (25 ml) at 0° C., and the mixture was heated for 30 minutes under nitrogen atmosphere at 90° C. The mixture was allowed to be at room temperature, the solvent was distilled off under reduced pressure and the obtained solid was washed with ethyl acetate, to give 2-chloromethyl-1-cyclopropylmethylimidazole hydrochloride. (2.96 g) as brown crystals.

reactant | 1-cyclopropylmethyl-2-hydroxymethylimidazole | 2.50 g | C1(CC1)CN1C(=NC=C1)CO | C8H12N2O
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-chloromethyl-1-cyclopropylmethylimidazole hydrochloride | Cl.ClCC=1N(C=CN1)CC1CC1 | InChI=1S/C8H11ClN2.ClH/c9-5-8-10-3-4-11(8)6-7-1-2-7;/h3-4,7H,1-2,5-6H2;1H
